US05202441
N-Benzyl-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)hydroxylamine
Following the procedure of Example 1, the title compound is prepared from 1,2,2,6,6-pentamethylpiperidin4-one oxime (5.0 g, 27 mmol) and benzyl bromide (4.6 g, 27 mmol) in a 40% yield to give 3.0 g of a white solid which melts at 107°-108° C. after recrystallization from ethanol.

reactant | 1,2,2,6,6-pentamethylpiperidin4-one oxime | 27 mmol, 5.0 g | CN1C(CC(CC1(C)C)=NO)(C)C | C10H20N2O
reactant | benzyl bromide | 27 mmol, 4.6 g | C(C1=CC=CC=C1)Br | C7H7Br
product | N-Benzyl-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)hydroxylamine | 40% yield | C(C1=CC=CC=C1)N(O)C1CC(N(C(C1)(C)C)C)(C)C | C17H28N2O
